US07834063B2
4-[(2,2,2-Trifluoroethyl)(2-{[5-(trifluoromethyl)-2-pyridinyl]oxy}ethyl)amino]-2-(trifluoromethyl)benzonitrile
Synthesized as described in Example 1C from 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile and 5-trifluoromethyl-2-pyridinol, using dry DME as reaction solvent: MS (ESI) m/z 458 (M+1).

reactant | 4-[(2-hydroxyethyl)(2,2,2-trifluoroethyl)amino]-2-(trifluoromethyl)benzonitrile | OCCN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC(F)(F)F | C12H10F6N2O
reactant | 5-trifluoromethyl-2-pyridinol | FC(C=1C=CC(=NC1)O)(F)F | C6H4F3NO
solvent | DME | COCCOC | C4H10O2
product | 4-[(2,2,2-Trifluoroethyl)(2-{[5-(trifluoromethyl)-2-pyridinyl]oxy}ethyl)amino]-2-(trifluoromethyl)benzonitrile | FC(CN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CCOC1=NC=C(C=C1)C(F)(F)F)(F)F | C18H12F9N3O
